* source DUMMY LOAD
V_Vcc         VCC 0 5V
R_R3         0 N14702  0.5  
V_Vss         VSS 0 {VSS}
R_R4         N17115 0  10k  
X_U1A         N32894 N14702 VCC 0 N17115 LM324
X_X1         VSS N17115 N14702 CSD18502KCS
X_U1B         N28782 N27021 VCC 0 N27021 LM324
R_R5         N27580 PWM  10k  
R_R6         0 N27580  4.2k  
R_R7         N28782 N27580  1k  
C_C1         0 N28782  0.1u  
V_V1         PWM 0  AC 5V
+PULSE 0V 5V 10e-9 10e-9 10e-9 {1*PER} {PER}
R_R8         N32894 N27021  1k  
C_C2         0 N32894  0.1u  
.PARAM  per=2e-4 pw={1*per} vss=12
